US08957102B2
(Step 5) 4-oxo-1,4-dihydropyrrolo[1,2-b]pyridazine-3-carboxylic acid
2 M sodium hydroxide aqueous solution was added to a suspension of ethyl 4-oxo-1,4-dihydropyrrolo[1,2,b]pyridazin-3-carboxylate in ethanol (165 mL) and stirred overnight at 100° C. The resulting reaction mixture was cooled to room temperature, distilled under reduced pressure, and concentrated. Then, concentrated hydrochloric acid was added until pH decreased to 2. Thereafter, the solid was filtered, washed with water and dried in vacuum. The target compound obtained was subjected to the next step without further purification.

reactant | sodium hydroxide | 2 M | [OH-].[Na+]
reactant | ethyl 4-oxo-1,4-dihydropyrrolo[1,2,b]pyridazin-3-carboxylate | O=C1C=2N(NC=C1C(=O)OCC)C=CC2 | C10H10N2O3
solvent | ethanol | 165 mL | C(C)O | C2H6O
product | 4-oxo-1,4-dihydropyrrolo[1,2-b]pyridazine-3-carboxylic acid | O=C1C=2N(NC=C1C(=O)O)C=CC2 | C8H6N2O3
